US06284764B1
(3-Methyl-4-phenoxy-phenyl)-[6-(1-propyl-piperidin-3-ylethynyl)-quinazolin-4-yl]-amine:
(3-Methyl-4-phenoxy-phenyl)-(6-piperidin-3-ylethynyl-quinazolin-4-yl)-amine (114 mg, 0.2 mmol) and propionaldehyde (116 mg, 2.0 mmol) were dissolved in MeOH/H2O (5/0.5 mL) and the pH was adjusted to 5 with AcOH. The reaction was stirred at room temperature overnight and followed by the addition of NaBH3CN (13 mg, 0.2 mmol) over a period of 1 hour. After stirring for another hour, the reaction was concentrated and the residue was partitioned between CH2Cl2 (30 mL) and saturated Na2CO3 (20 mL). The separated organic layer was dried over sodium sulfate and concentrated. Purification by preparative TLC using 10% MeOH in EtOAc gave the free base product which was converted to HCl salt to yield 42 mg (38%) of yellow solid: 1H NMR (CD3OD) δ 1.03 (t, 3H), 1.78-1.87 (m, 4H), 2.01-2.08 (m, 2H), 2.28 (s, 3H), 2.96 (t, 1H), 3.07-3.19 (m, 3H), 3.31 (br, 1H), 3.59 (d, 1H), 3.80 (d, 1H), 6.94 (m, 3H), 7.09 (t, 1H), 7.34 (t, 2H), 7.53 (d, 1H), 7.63 (s, 1H), 7.80 (d, 1H), 8.05 (dd, 1H), 8.73 (s, 1H), 8.75 (s, 1H); MS m/z (MH+) 477.1.

reactant | (3-Methyl-4-phenoxy-phenyl)-(6-piperidin-3-ylethynyl-quinazolin-4-yl)-amine | 0.2 mmol, 114 mg | CC=1C=C(C=CC1OC1=CC=CC=C1)NC1=NC=NC2=CC=C(C=C12)C#CC1CNCCC1 | C28H26N4O
reactant | propionaldehyde | 2.0 mmol, 116 mg | C(CC)=O | C3H6O
reactant | NaBH3CN | 0.2 mmol, 13 mg | [BH3-]C#N.[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH H2O | 0.5 mL | CO.O
solvent | AcOH | CC(=O)O | C2H4O2
product | (3-Methyl-4-phenoxy-phenyl)-[6-(1-propyl-piperidin-3-ylethynyl)-quinazolin-4-yl]-amine | 42 mg, 38% | CC=1C=C(C=CC1OC1=CC=CC=C1)NC1=NC=NC2=CC=C(C=C12)C#CC1CN(CCC1)CCC | C31H32N4O
